US07553973B2
Step 5: 7-[({5-[1-Hydroxy-1-(trifluoromethyl)propyl]-1,3,4-oxadiazol-2-yl}amino)methyl]-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one
To a solution of 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carbaldehyde (0.200 g, 0.74 mmol) and 2-(5-amino-1,3,4-oxadiazol-2-yl)-1,1,1-trifluorobutan-2-ol (0.202 g, 0.96 mmol) in toluene (2 ml) was added PPTS (0.019 g, 0.07 mmol). The reaction mixture was heated under reflux with a Dean-Stark trap for 6 h. After evaporation, the residue was diluted in EtOH (2 ml), cooled to 0° C. and sodium borohydride (28 mg, 0.74 mmol) was added. After 15 min, the reaction was quenched with a saturated solution of NH4Cl, extract with EtOAc then washed with water and brine. The solvent was evaporated and the residue chromatographed on silica gel (chloroform-ethanol, 95:5) to give the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.27 (d, 1H), 8.09 (s, 1H), 7.45 (m, 3H), 6.66 (s, 1H), 6.08 (s, 1H), 4.7 (d, 2H), 2.83 (s, 3H), 2.22 (m, 1H), 2.10 (m, 1H), 0.98 (m, 3H).

reactant | 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carbaldehyde | 0.74 mmol, 0.200 g | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C=O)=O | C14H9NO3S
reactant | 2-(5-amino-1,3,4-oxadiazol-2-yl)-1,1,1-trifluorobutan-2-ol | 0.96 mmol, 0.202 g | NC1=NN=C(O1)C(C(F)(F)F)(CC)O | C6H8F3N3O2
reactant | PPTS | 0.07 mmol, 0.019 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | sodium borohydride | 0.74 mmol, 28 mg | [BH4-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 7-[({5-[1-Hydroxy-1-(trifluoromethyl)propyl]-1,3,4-oxadiazol-2-yl}amino)methyl]-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | OC(CC)(C(F)(F)F)C1=NN=C(O1)NCC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C20H17F3N4O4S
